US04705802
5-[5-(5-Phenylpentyl)-thien-2-yl]-valeric acid.
This compound is prepared analogously to Example 1b from: 15 g of methyl 5-[5-(1-oxo-5-phenylpentyl)-thien-2-yl]-valerate, 7.6 g of potassium hydroxide, 100 ml of triethylene glycol and 5 g of hydrazine hydrate.

reactant | methyl 5-[5-(1-oxo-5-phenylpentyl)-thien-2-yl]-valerate | 15 g | O=C(CCCCC1=CC=CC=C1)C1=CC=C(S1)CCCCC(=O)OC | C21H26O3S
reactant | potassium hydroxide | 7.6 g | [OH-].[K+]
reactant | hydrazine hydrate | 5 g | O.NN
solvent | triethylene glycol | 100 ml | C(COCCOCCO)O | C6H14O4
product | 5-[5-(5-Phenylpentyl)-thien-2-yl]-valeric acid | C1(=CC=CC=C1)CCCCCC1=CC=C(S1)CCCCC(=O)O | C20H26O2S
